US07750017B2
Preparation of 2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-yl]ethanol
To a solution of ethyl[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-yl]acetate (858 mg, 1.64 mmol, 1 equiv) in THF (10 mL) was added 1M solution of diisobutylaluminum hydride in hexanes (6.6 mL, 6.57 mmol, 4 equiv) at 0° C. under nitrogen. The reaction was stirred at 0° C. for 1 h. The reaction mixture was quenched with Rochelle's salt followed by extraction with EtOAc (3×50 mL). The combined organic layers were washed with brine (100 mL) and water (100 mL), dried over sodium sulfate and concentrated in vacuo. The crude material was purified by flash chromatography (40% EtOAc/hexane then 100% EtOAc) to yield a light yellow (845 mg, 48%). 1H-NMR (CD3OD) δ 8.35 (s, 1H), 8.18 (d, J=8.6 Hz, 1H), 7.76 (s, 1H), 7.71 (d, J=2.0 Hz, 1H), 7.43-7.34 (m, 3H), 7.27-7.20 (m, 2H), 7.03 (m, 2H), 5.12 (s, 2H), 3.83 (t, 2H), 2.95 (t, 2H); LCMS RT=3.56 min, [M+H]+=480

reactant | ethyl[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-yl]acetate | 1.64 mmol, 858 mg, 1 equiv | C(C)OC(CC1=CC2=C(C=C1)C1=C(N=CN=C1NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl)S2)=O | C27H21ClFN3O3S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)[1]benzothieno[2,3-d]pyrimidin-7-yl]ethanol | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)CCO | C25H19ClFN3O2S
